* ============================================================================
* RC Highpass Filter — First-order (Canonical)
* PedalKernel Validation Circuit — Highpass discretization test
* ============================================================================
* C = 22nF, R = 33k
* fc = 1/(2*pi*R*C) = 1/(2*pi*33000*22e-9) ≈ 219 Hz
* Analytical H(s) = s*R*C / (1 + s*R*C)
* ============================================================================

C1 v_in v_out 22n
R1 v_out 0 33k
