* ============================================================================
* RC Lowpass Filter — First-order (Canonical)
* PedalKernel Validation Circuit — Baseline discretization test
* ============================================================================
* R = 10k, C = 10nF
* fc = 1/(2*pi*R*C) = 1/(2*pi*10000*10e-9) ≈ 1591.5 Hz
* Analytical H(s) = 1 / (1 + s*R*C)
* ============================================================================

R1 v_in v_out 10k
C1 v_out 0 10n
